US04530841
A solution of benzyl 6-(1-hydroxyethyl)-6-methyl-3-chloro-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate (50 mg) in anhydrous DMF (1 ml) is cooled in an ice-bath and stirred while triethylamine (28 μl) and propylamine (12.4 μl) are added. The resulting solution is allowed to slowly warm to room temperature and kept at room temperature for 1 hr. The solution is diluted wiht ethyl acetate (10 ml), washed with water (5×2 ml), pH 3 phosphate buffer (2 ml), 5% NaHCO3 (2 ml), and brine, dried with MgSO4, filtered, and evaporated in vacuo to give benzyl 6-(1-hydroxyethyl)-6-methyl-3-propylamino-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate.

reactant | benzyl 6-(1-hydroxyethyl)-6-methyl-3-chloro-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | 50 mg | OC(C)C1(C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)Cl)C | C17H18ClNO4
reactant | triethylamine | 28 μl | C(C)N(CC)CC | C6H15N
reactant | propylamine | 12.4 μl | C(CC)N | C3H9N
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | benzyl 6-(1-hydroxyethyl)-6-methyl-3-propylamino-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | OC(C)C1(C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)NCCC)C | C20H26N2O4
